data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_410071_0,[C:1]1([C:4](=[O:7])[H:10])([H:9])[N:2]([C:5](=[C:6]([H:12])[H:13])[H:11])[N:3]1[H:8]>>[C:1]1([C:4]([C:5](=[C:6]([H:12])[H:13])[H:11])([O:7][H:8])[H:10])([H:9])[N:2]=[N:3]1,71.83619999997347
MR_669541_1,[C:1](/[N:8]=[C:6](\[N:3](/[C:4]([N:5]([H:10])[H:11])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])[H:9])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:8]=[C:6](\[C:7]([C:2]([H:17])([H:18])[H:19])(/[C:4](=[N:3]/[H:9])[N:5]([H:10])[H:11])[H:13])[H:12])([H:14])([H:15])[H:16],57.02657250001849
MR_203326_1,[C:1]1([O:6][H:8])([H:10])[C:2]([H:11])([H:12])[C:4]([O:7][H:9])=[C:5]1[C:3]([H:13])([H:14])[H:15]>>[C:1]1([H:10])=[C:5]([C:3]([H:13])([H:14])[H:15])[C:4]([O:6][H:8])([O:7][H:9])[C:2]1([H:11])[H:12],60.49037249997653
MR_598392_0,[C:1](/[C:2](=[N:6]/[H:17])[H:14])([C:3]([C:4](=[C:7]([H:19])[H:20])[O:9][H:12])([N:5]([H:15])[H:16])[O:10][H:18])([O:8][H:11])[H:13]>>[C:1]([C:2]([C:4](=[C:7]([H:19])[H:20])[O:9][H:12])([N:6]([H:17])[H:18])[H:14])([C:3]([N:5]([H:15])[H:16])=[O:10])([O:8][H:11])[H:13],46.91189999998073
MR_278423_0,[C:1](/[C:3](=[N:5]\[N:2]([O:4][H:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:3]([O:4][H:6])([N:5][N:2][H:7])[H:8])([H:9])([H:10])[H:11],54.135680000005095
MR_700930_0,[C:1]12([H:9])[C:2]([H:10])([C:3]([H:13])([H:14])[C:5]([N:7]([H:11])[H:12])=[C:6]1[C:4]([H:15])([H:16])[H:17])[O:8]2>>[C:1]([C:2]1([H:10])[C:3]([H:13])([H:14])[C:5]([N:7]([H:11])[H:12])=[C:6]1[C:4]([H:15])([H:16])[H:17])(=[O:8])[H:9],61.03629750002497
MR_90305_2,[C@:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:7][H:10])=[O:8])([C:4](=[C:5]([H:15])[H:16])[H:11])[O:6][H:9]>>[C@:1]1([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[C@:3]([C:4](=[C:5]([H:15])[H:16])[H:11])([O:7][H:10])[O:8]1,71.98303499999511
MR_373098_0,[C:1](/[C:3]([N:2]([N:5][O:7])[H:9])=[N:6]\[O:4][H:8])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[N:2]/[H:9])[N:6]([O:4][H:8])[N:5]=[O:7])([H:10])([H:11])[H:12],41.60199500001099
MR_553755_2,[N:1](\[N:2]([C:4]([O:5][H:7])([O:6][H:9])[H:11])[H:8])=[N:3]/[H:10]>>[N:1]([N:2]([C:4](=[O:6])[H:11])[H:8])([N:3]([H:9])[H:10])[O:5][H:7],42.85071999996149
MR_207781_0,[C:1]1([O:9][H:10])([H:11])[C:2]([H:12])([H:13])[N:6]([C:5]([H:18])([H:19])[H:20])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:7]1=[C:8]([H:21])[H:22]>>[C:1]([C:2]([N:6]([C:5]([H:18])([H:19])[H:20])[H:17])([H:12])[H:13])([C:7]([C:4](=[C:3]([H:14])[H:15])[H:16])=[C:8]([H:21])[H:22])([O:9][H:10])[H:11],66.76913749999699
MR_574296_0,[C:1]([C:4](/[C:3]([C:2]([H:18])([H:19])[H:20])=[C:8](\[N:6]([H:11])[H:12])[H:14])=[C:7](\[N:5]([H:9])[H:10])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C:4]1=[C:3]([C:2]([H:18])([H:19])[H:20])[C:8]([N:6]([H:11])[H:12])([H:14])[C:7]1([N:5]([H:9])[H:10])[H:13])([H:15])([H:16])[H:17],40.90295999999242
MR_86721_1,[C:1]([C:2]([O:4][H:7])=[O:6])(/[C:3](=[N:5]\[H:8])[H:11])([H:9])[H:10]>>[C:1](=[C:3]([N:5]([C:2]([O:4][H:7])=[O:6])[H:8])[H:11])([H:9])[H:10],56.84647999997381
MR_488983_1,[C:1]1([C:5](=[C:6]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])[N:7]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[O:8]1>>[C:1]([C:2]([C:5](=[C:6]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])[N:7]([H:10])[H:11])([H:12])[H:13])(=[O:8])[H:9],60.37867749997318
MR_241796_0,[N:1]([C:2](=[C:4]([H:10])[H:11])[N:5]=[O:6])([N:3]([H:8])[H:9])[H:7]>>[N:1](=[C:2](/[C:4]([H:7])([H:10])[H:11])[N:5]=[O:6])\[N:3]([H:8])[H:9],57.97535249997722
MR_275713_2,[C:1]([C:2]([H:12])([H:13])[H:15])([C:3]([H:14])([H:16])[H:17])([C:4]([C:5]([N:7][H:10])[H:11])=[O:8])[O:6][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:15])([C:3]([H:14])([H:16])[H:17])([C@@:5]1([H:11])[C:4](=[O:8])[N:7]1[H:10])[O:6][H:9],63.465350000027314
MR_518086_0,[C:1](=[C:5]([C:4]1([H:12])[C:3]([N:2]([H:7])[H:8])([H:9])[O:6]1)[H:13])([H:10])[H:11]>>[C:1]([N:2]([H:7])[H:8])(/[C:5](=[C:4](\[C:3](=[O:6])[H:9])[H:12])[H:13])([H:10])[H:11],46.26118250001852
MR_246159_0,[C@@:1]([C@@:2]([C:4]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:11])[H:10])([C:3]([H:12])([H:13])[H:14])([N:6]=[O:7])[H:9]>>[C@:1]([C@:2]([C:4]([H:15])([H:16])[H:17])([N:6][O:7])[H:10])([C:3]([H:12])([H:13])[H:14])([C:5](=[O:8])[H:11])[H:9],70.0823375000499
MR_174884_0,[C:1](/[N:5]=[C:2](/[C:3](=[C:4]([H:11])[H:12])[H:7])[H:6])([H:8])([H:9])[H:10]>>[C:1]([N:5]1[C:2]([H:6])=[C:3]([H:7])[C:4]1([H:11])[H:12])([H:8])([H:9])[H:10],51.63383750000818
MR_106600_1,[C:1]1([H:10])([H:11])[C:2](=[O:7])[O:5][C:4]([H:9])=[C:3]1[O:6][H:8]>>[C:1]1([H:10])([H:11])[C:2](=[O:7])[C@:3]1([C:4](=[O:5])[H:9])[O:6][H:8],50.7647500000266
MR_234156_2,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:3]\[H:9])[C:4]([O:5][H:7])([N:6]([H:8])[H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:8])[H:9])(/[C:4](=[N:6]/[H:10])[H:11])[O:5][H:7],44.95410000000135
MR_491414_0,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:5]([N:3](/[C:7](=[C:6](\[O:8][H:9])[H:12])[H:13])[H:10])[H:11])([H:14])([H:15])[H:19]>>[C:1](=[C:4]([C:2]([H:16])([H:17])[H:18])[C:5]1([H:11])[N:3]([H:10])[C:7]1([C:6]([O:8][H:9])([H:12])[H:14])[H:13])([H:15])[H:19],55.88452249997701
